US06555584B1
N-[2-(3-Benzyloxybenzamido)benzenesulfonyl]benzamide
In a stream of nitrogen and under ice-cooling, 88 mg (0.78 mmol) of potassium t-butoxide was added to an anhydrous tetrahydrofuran (10 ml) solution containing 300 mg (0.78 mmol) of 2-(3-benzyloxybenzamido)benzenesulfonamide produced in Reference Example 1, and the mixture was stirred for 1 hour. This solution was mixed with 111 mg (0.78 mmol) of benzoyl chloride and stirred at room temperature for 3 hours. After completion of the reaction, this was neutralized by adding an ammonium chloride aqueous solution and then the solvent was evaporated. The resulting residue was extracted with ethyl acetate, washed with water and saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 247 mg (yield: 65%) of the title compound.

reactant | potassium t-butoxide | 0.78 mmol, 88 mg | CC(C)([O-])C.[K+]
reactant | 2-(3-benzyloxybenzamido)benzenesulfonamide | 0.78 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)N)C=CC1 | C20H18N2O4S
reactant | benzoyl chloride | 0.78 mmol, 111 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(3-Benzyloxybenzamido)benzenesulfonyl]benzamide | 247 mg, yield: 65% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(C2=CC=CC=C2)=O)C=CC1 | C27H22N2O5S
